US08476434B2
Synthesis of 2-Chloro-3-(2-methoxypyridin-4-yl)pyridine
To 4-iodo-2-methoxypyridine (834 mg, 3.55 mmol), 2-chloropyridine-3-boronic acid (838 mg, 5.32 mmol), Na2CO3 (1.13 g, 10.7 mmol), Pd(OAc)2 (40 mg, 0.18 mmol) and P(tBu)3·HBF4 (104 mg, 0.36 mmol) was added dioxane (12 mL) and water (4 mL). The mixture was heated overnight at 100° C. in a sealed tube. The resulting mixture was diluted with EtOAc and extracted with water and brine. The organic layer was dried over Na2SO4, filtered and concentrated. The resulting solid was triturated with MeOH and dried to yield the title compound. MS m/z=221 [M+1]+. Calc'd for C21H9ClN2O: 220.66.

reactant | 4-iodo-2-methoxypyridine | 3.55 mmol, 834 mg | IC1=CC(=NC=C1)OC | C6H6INO
reactant | 2-chloropyridine-3-boronic acid | 5.32 mmol, 838 mg | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
reactant | Na2CO3 | 10.7 mmol, 1.13 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.18 mmol, 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 4 mL | O | H2O
product | 2-Chloro-3-(2-methoxypyridin-4-yl)pyridine | ClC1=NC=CC=C1C1=CC(=NC=C1)OC | C11H9ClN2O
